US05849764
Step 4.2D {2-[2-(3,5-dimethylphenyl)-5-(3,3-dimethylureido)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester
Finely divided {2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester (265 mg) was suspended in dry tetrahydrofuran (5mL) and diisopropylethylamine (0.146 mL) and dimethylcarbamoyl chloride (0.077 mL) were added. The reaction mixture was stirred at room temperature for 2.5 days. The reaction mixture was concentrated on a rotary evaporator and the residues were applied to four (20×20 cm 1000μ) preparative silica gel plates and eluted with a solvent system comprising methanol and methylene chloride in the ratio (1:9 v/v). The product (299 mg) was isolated as a thick gum that solidified on prolonged standing.

reactant | {2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester | 265 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)N)C1=CC(=CC(=C1)C)C)=O | C23H29N3O2
reactant | diisopropylethylamine | 0.146 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylcarbamoyl chloride | 0.077 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | tetrahydrofuran | 5mL | O1CCCC1 | C4H8O
product | {2-[2-(3,5-dimethylphenyl)-5-(3,3-dimethylureido)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester | 299 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)NC(=O)N(C)C)C1=CC(=CC(=C1)C)C)=O | C26H34N4O3
